### PR TITLE
[Merged by Bors] - feat(RingTheory/HahnSeries): equip HahnSeries with LinearOrder

### PR DESCRIPTION
**Pull request by wwylele**
This is part of #25140. As the future codomain of the Hahn embedding theorem, `HahnSeries` needs a linear order.

---

~~It might be debatable whether the lexicographical order should be *the* order of `HahnSeries`. Aside from usage in Hahn embedding theorem, this order also represents, for example, the asymptotic behavior around `(x : R) = 0`, so it is generally useful.~~ Updated to add `LinearOrder` on `Lex (HahnSeries _ _)` instead

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Order.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [PartialOrder R]
+
+variable (Γ R) in
+instance instPartialOrder : PartialOrder (HahnSeries Γ R) :=
+  PartialOrder.lift (toLex ·.coeff) (by
+    intro x y
+    simp
+  )
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Order.lean]:
```suggestion
  PartialOrder.lift (toLex ·.coeff) fun x y => by simp
```

File: Mathlib/RingTheory/HahnSeries/Order.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+end PartialOrder
+
+section LinearOrder
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [LinearOrder R]
+
+variable (Γ R) in
+noncomputable
+instance instLinearOrder : LinearOrder (HahnSeries Γ R) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Order.lean]: My initial instinct is that this should be
```suggestion
instance instLinearOrder : LinearOrder (Lex (HahnSeries Γ R)) where
```
which is certainly more conservative. Of course, this will make the rest of your development a little bit more annoying with extra `toLex` and `ofLex`es.

Do we put global orders on `PowerSeries`, `LaurentSeries`, etc in mathlib? We should probably be consistent here.

Comment (wwylele) [reply Mathlib/RingTheory/HahnSeries/Order.lean]: I am totally fine with adding `Lex` here as that was one option I considered. I couldn't decide myself, so I am open for discussion here!

Comment (eric-wieser) [reply Mathlib/RingTheory/HahnSeries/Order.lean]: My recommendation would be to just do that, and perhaps discuss removing it later if it's really annoying. That discussion will be easier to have once there are applications to point at.

File: Mathlib/RingTheory/HahnSeries/Order.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+    · have hab := Function.ne_iff.mp <| HahnSeries.ext_iff.ne.mp hab
+      let u := {i : Γ | a.coeff i ≠ 0} ∪ {i : Γ | b.coeff i ≠ 0}
+      let v := {i : Γ | a.coeff i ≠ b.coeff i}
+      have hvu : v ⊆ u := by
+        intro i h
+        rw [Set.mem_union, Set.mem_setOf_eq, or_iff_not_imp_left]
+        intro h2
+        rw [not_ne_iff] at h2
+        rw [Set.mem_setOf_eq, h2] at h
+        exact h.symm
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Order.lean]:
```suggestion
      have hvu : v ⊆ u := by
        intro i h
        rw [Set.mem_union, Set.mem_setOf_eq, Set.mem_setOf_eq]
        contrapose! h
        rw [Set.nmem_setOf_iff, Mathlib.Tactic.PushNeg.not_ne_eq, h.1, h.2]
```

File: Mathlib/RingTheory/HahnSeries/Order.lean [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+    · simp
+    · exact (leadingCoeff_pos_iff.mpr hlt).le
+  · intro h
+    contrapose! h
+    obtain heq | hlt := eq_or_lt_of_le h
+    · exact (leadingCoeff_eq_iff.mp heq.symm).symm.le
+    · exact (leadingCoeff_pos_iff.mp hlt).le
+
+theorem leadingCoeff_nonneg_iff {x : HahnSeries Γ R} : 0 ≤ x.leadingCoeff ↔ 0 ≤ x := by
+  simpa using (leadingCoeff_neg_iff (x := x)).not
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Order.lean]:
```suggestion
theorem leadingCoeff_nonneg_iff {x : HahnSeries Γ R} : 0 ≤ x.leadingCoeff ↔ 0 ≤ x := by
  constructor
  · intro h
    obtain heq | hlt := eq_or_lt_of_le h
    · exact (leadingCoeff_eq_iff.mp heq.symm).symm.le
    · exact (leadingCoeff_pos_iff.mp hlt).le
  · intro h
    obtain rfl | hlt := eq_or_lt_of_le h
    · simp
    · exact (leadingCoeff_pos_iff.mpr hlt).le

theorem leadingCoeff_neg_iff {x : HahnSeries Γ R} : x.leadingCoeff < 0 ↔ x < 0 := by
  simpa using (leadingCoeff_nonneg_iff (x := x)).not
```
This lets you avoid two `contrapose`s.

File: Mathlib/RingTheory/HahnSeries/Basic.lean [hunk 5]
```diff
@@ -333,6 +333,11 @@ theorem leadingCoeff_of_single {a : Γ} {r : R} : leadingCoeff (single a r) = r
   simp only [leadingCoeff, single_eq_zero_iff]
   by_cases h : r = 0 <;> simp [h]
 
+theorem leadingCoeff_eq_coeff_orderTop {x : HahnSeries Γ R} (hx : x ≠ 0) :
+    x.leadingCoeff = x.coeff (x.orderTop.untop (ne_zero_iff_orderTop.mp hx)) := by
+  rw [HahnSeries.leadingCoeff_of_ne hx]
+  rw [(WithTop.untop_eq_iff _).mpr (HahnSeries.orderTop_of_ne hx)]
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Basic.lean]:
```suggestion
theorem coeff_untop_eq_leadingCoeff {x : HahnSeries Γ R} (hx : x ≠ 0) :
    x.coeff (x.orderTop.untop (ne_zero_iff_orderTop.mp hx)) = x.leadingCoeff := by
  rw [HahnSeries.leadingCoeff_of_ne hx, (WithTop.untop_eq_iff _).mpr (HahnSeries.orderTop_of_ne hx)]
```
I would be inclined to reverse the order, since `x.leadingCoeff` looks simpler.

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 6]
```diff
@@ -349,6 +350,13 @@ theorem order_neg [Zero Γ] {f : HahnSeries Γ R} : (-f).order = f.order := by
   · simp only [hf, neg_zero]
   simp only [order, support_neg, neg_eq_zero]
 
+theorem leadingCoeff_neg {x : HahnSeries Γ R} : (-x).leadingCoeff = -x.leadingCoeff := by
+  obtain rfl | hx := eq_or_ne x 0
+  · simp
+  · rw [leadingCoeff_eq_coeff_orderTop hx, leadingCoeff_eq_coeff_orderTop (neg_ne_zero.mpr hx)]
+    rw [coeff_neg]
+    simp
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Addition.lean]:
```suggestion
  · simp [leadingCoeff_eq_coeff_orderTop hx, leadingCoeff_eq_coeff_orderTop (neg_ne_zero.mpr hx)]
```

**Comment by wwylele** [comment]
Addressed comments and changed it to use `Lex`. I also renamed the file to `Lex` following by convention I see in other places.

File: Mathlib/RingTheory/HahnSeries/Order.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries/Order.lean]: Please feel free to click the "resolve conversation" button if you have merged a fix and have nothing further to say about the suggestion.

**Review by ScottCarnahan — APPROVED** [review]

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 7]
```diff
@@ -0,0 +1,169 @@
+/-
+Copyright (c) 2025 Weiyi Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Weiyi Wang
+-/
+
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 8]
```diff
@@ -0,0 +1,169 @@
...
+section PartialOrder
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [PartialOrder R]
+
+variable (Γ R) in
+instance instPartialOrder : PartialOrder (Lex (HahnSeries Γ R)) :=
+  PartialOrder.lift (toLex <| ofLex · |>.coeff) fun x y ↦ by simp
+
+
```
Comment (ScottCarnahan) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 9]
```diff
@@ -0,0 +1,167 @@
...
+      have hv : v.IsWF :=
+        ((ofLex a).isPWO_support'.isWF.union (ofLex b).isPWO_support'.isWF).subset hvu
+      let i := hv.min hab
+      have hji (j) : j < i → (ofLex a).coeff j = (ofLex b).coeff j :=
+        not_imp_not.mp <| fun h' ↦ hv.not_lt_min hab h'
+      have hne : (ofLex a).coeff i ≠ (ofLex b).coeff i := hv.min_mem hab
+      obtain hi | hi := lt_or_gt_of_ne hne
+      · exact Or.inl (le_of_lt ⟨i, hji, hi⟩)
+      · exact Or.inr (le_of_lt ⟨i, fun j hj ↦ (hji j hj).symm, hi⟩)
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 10]
```diff
@@ -0,0 +1,167 @@
...
+namespace HahnSeries
+
+section PartialOrder
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [PartialOrder R]
+
+variable (Γ R) in
+instance instPartialOrder : PartialOrder (Lex (HahnSeries Γ R)) :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
instance : PartialOrder (Lex (HahnSeries Γ R)) :=
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 11]
```diff
@@ -0,0 +1,167 @@
...
+end PartialOrder
+
+section LinearOrder
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [LinearOrder R]
+
+variable (Γ R) in
+noncomputable
+instance instLinearOrder : LinearOrder (Lex (HahnSeries Γ R)) where
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
instance : LinearOrder (Lex (HahnSeries Γ R)) where
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 12]
```diff
@@ -0,0 +1,167 @@
...
+    have hne : ofLex x ≠ 0 := ne_zero_iff_orderTop.mpr htop
+    have horder' : (ofLex x).orderTop.untop htop = i := (WithTop.untop_eq_iff _).mpr horder
+    rw [← coeff_untop_eq_leadingCoeff hne, horder']
+    simpa using hi
+
+theorem leadingCoeff_nonneg_iff {x : Lex (HahnSeries Γ R)} :
+    0 ≤ (ofLex x).leadingCoeff ↔ 0 ≤ x := by
+  constructor
+  · intro h
+    obtain heq | hlt := eq_or_lt_of_le h
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
    obtain heq | hlt := h.eq_or_lt
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 13]
```diff
@@ -0,0 +1,167 @@
...
+    · exact le_of_eq (leadingCoeff_eq_iff.mp heq.symm).symm
+    · exact (leadingCoeff_pos_iff.mp hlt).le
+  · intro h
+    obtain rfl | hlt := eq_or_lt_of_le h
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
    obtain rfl | hlt := h.eq_or_lt
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 14]
```diff
@@ -0,0 +1,167 @@
...
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [LinearOrder R] [AddCommGroup R] [IsOrderedAddMonoid R]
+
+variable (Γ) in
+instance instIsOrderedAddMonoid (R : Type*) [PartialOrder R] [AddCommGroup R]
+    [IsOrderedAddMonoid R] : IsOrderedAddMonoid (Lex (HahnSeries Γ R)) where
+  add_le_add_left := by
+    intro a b hab c
+    obtain rfl | hlt := eq_or_lt_of_le hab
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
    obtain rfl | hlt := hab.eq_or_lt
```

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 15]
```diff
@@ -0,0 +1,167 @@
...
+
+end LinearOrder
+
+section OrderedGroup
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [LinearOrder R] [AddCommGroup R] [IsOrderedAddMonoid R]
+
+variable (Γ) in
+instance instIsOrderedAddMonoid (R : Type*) [PartialOrder R] [AddCommGroup R]
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
instance (R : Type*) [PartialOrder R] [AddCommGroup R]
```

**Review by jcommelin — COMMENTED** [review]
Thanks! I have a few minor comments, and then it's ready for merging.

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 16]
```diff
@@ -0,0 +1,167 @@
...
+section LinearOrder
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [Zero R] [LinearOrder R]
+
+variable (Γ R) in
+noncomputable
+instance instLinearOrder : LinearOrder (Lex (HahnSeries Γ R)) where
+  le_total := by
+    intro a b
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
  le_total a b := by
```

**Review by eric-wieser — COMMENTED** [review]
Is it also canonically ordered? That is, if the coefficient ring is canonically ordered and so satifies `zero_le`, do we have `zero_le` for Lex (HahnSeries _ _)`?

**Comment by wwylele** [comment]
> Is it also canonically ordered? That is, if the coefficient ring is canonically ordered and so satifies zero_le, do we have zero_le for Lex (HahnSeries _ _)`?

I think this is true, though it wouldn't be compatible with the current proof of `IsOrderedAddMonoid (Lex (HahnSeries Γ R))`, which requires `[AddCommGroup R]`. Do you suggest having another `IsOrderedAddMonoid (Lex (HahnSeries Γ R))` instance for [CanonicallyOrderedAdd R]`? (perhaps in another PR? I got caught in the middle of PR process change and I want to avoid migrating branches)

File: Mathlib/RingTheory/HahnSeries/Lex.lean (hunk 16 above)
Comment (wwylele) [reply Mathlib/RingTheory/HahnSeries/Lex.lean]: Done. Also did the same for `IsOrderedAddMonoid`

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 17]
```diff
@@ -0,0 +1,164 @@
...
+
+end LinearOrder
+
+section OrderedGroup
+
+variable {Γ : Type*} {R : Type*}
+variable [LinearOrder Γ] [LinearOrder R] [AddCommGroup R] [IsOrderedAddMonoid R]
+
+variable (Γ) in
+instance (R : Type*) [PartialOrder R] [AddCommGroup R] [IsOrderedAddMonoid R] :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]: This doesn't need `AddCommGroup`, `[AddCommMonoid R] [AddLeftStrictMono R] [AddLeftReflectLT R]` seems sufficient, and may still be overkill

Comment (eric-wieser) [reply Mathlib/RingTheory/HahnSeries/Lex.lean]: Indeed, `AddLeftReflectLT` is also not needed.

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 18]
```diff
@@ -0,0 +1,169 @@
...
+is a `LinearOrder` when `Γ` and `R` themselves are linearly ordered. Additionally,
+it is an ordered group when `R` is.
+
+-/
+
+namespace HahnSeries
+
+section PartialOrder
+
+variable {Γ : Type*} {R : Type*}
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]: Can you move this to the outer namespace, and remove the duplicate `Type` variable declarations?

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 19]
```diff
@@ -0,0 +1,169 @@
...
+end LinearOrder
+
+section OrderedGroup
+
+variable {Γ : Type*}
+variable [LinearOrder Γ]
+
+variable (Γ) in
+instance (R : Type*) [PartialOrder R] [AddCommMonoid R] [AddLeftStrictMono R]
+    [IsOrderedAddMonoid R] : IsOrderedAddMonoid (Lex (HahnSeries Γ R)) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]: I think this is probably two sections now, to avoid redeclaring variables.

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 20]
```diff
@@ -0,0 +1,170 @@
...
+
+namespace HahnSeries
+
+variable {Γ : Type*} [LinearOrder Γ] {R : Type*}
+
+section PartialOrder
+
+variable [Zero R] [PartialOrder R]
+
+variable (Γ R) in
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]: We tend not to care about explicitness on instances:
```suggestion
```
(and throughout)

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 21]
```diff
@@ -0,0 +1,170 @@
...
+
+In this file, we define lexicographical ordered `Lex (HahnSeries Γ R)`, and show this
+is a `LinearOrder` when `Γ` and `R` themselves are linearly ordered. Additionally,
+it is an ordered group when `R` is.
+
+-/
+
+namespace HahnSeries
+
+variable {Γ : Type*} [LinearOrder Γ] {R : Type*}
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]:
```suggestion
variable {Γ R : Type*} [LinearOrder Γ]
```
to match the order in `HahnSeries`.

File: Mathlib/RingTheory/HahnSeries/Lex.lean [hunk 22]
```diff
@@ -0,0 +1,170 @@
...
+
+theorem leadingCoeff_nonpos_iff {x : Lex (HahnSeries Γ R)} :
+    (ofLex x).leadingCoeff ≤ 0 ↔ x ≤ 0 := by
+  simpa using (leadingCoeff_pos_iff (x := x)).not
+
+end LinearOrder
+
+section OrderedMonoid
+
+variable [PartialOrder R] [AddCommMonoid R] [AddLeftStrictMono R] [IsOrderedAddMonoid R]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries/Lex.lean]: nit: I think we prefer
```suggestion
section OrderedMonoid
variable [PartialOrder R] [AddCommMonoid R] [AddLeftStrictMono R] [IsOrderedAddMonoid R]
```

which makes it easier to see what the section is about. The blank lines was an accidental style change induced by an automated tool we no longer use.

**Comment by wwylele** [comment]
Sorry for the consecutive pushes. I restructured sections and variables a little bit

I also checked CanonicallyOrderedAdd again, and now I don't think it is true for the current definition. For [exists_add_of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Monoid/Unbundled/ExistsOfLE.html#ExistsAddOfLE.exists_add_of_le), if we look at `HahnSeries (Fin 2) Nat`, we have `a = [1, 2] ≤ b = [2, 1]`, but the hypothetical `c = [1, -1]` isn't `HahnSeries (Fin 2) Nat`

**Comment by wwylele** [comment]
@eric-wieser Got some time for another review?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
